US06100400
10 gr. of (0.035 mole) of 1-[(4-chlorophenyl)phenylmethyl]piperazine, 8.06 gr. (0.0525 mole) of methyl 2-chloroethoxyacetate and 50 ml. of triethylamine were introduced into a pressure vessel and treated in a similar way as described in example 1. 12.5 gr. of methyl [2-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]ethoxy]acetate is obtained as reddish oil (88.7% yield).

reactant | 1-[(4-chlorophenyl)phenylmethyl]piperazine | 0.035 mole | ClC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H19ClN2
reactant | methyl 2-chloroethoxyacetate | 0.0525 mole | ClCCOCC(=O)OC | C5H9ClO3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | methyl [2-[4-[(4-chlorophenyl)phenylmethyl]-1-piperazinyl]ethoxy]acetate | ClC1=CC=C(C=C1)C(N1CCN(CC1)CCOCC(=O)OC)C1=CC=CC=C1 | C22H27ClN2O3
